US08476434B2
Synthesis of N-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-4-fluoro-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzamide
N-(1-Acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-4-fluoro-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzamide (137 mg, 0.28 mmol, Example Norman) was dissolved in 3:1 ethanol/concentrated HCl and heated under N2 at 47° C. for 20 h. After concentration, the residue was diluted with sat'd aqueous NaHCO3 and extracted with EtOAc. The organic layer was dried with Na2SO4, concentrated, triturated with methanol, and filtered to provide yellow solid product. MS m/z=455 [M+H]+. Calc'd for C26H23FN6O: 454.51.

reactant | N-(1-Acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-4-fluoro-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzamide | 0.28 mmol, 137 mg | C(C)(=O)N1CC(C2=CC=C(C=C12)NC(C1=CC(=C(C=C1)F)NC1=NC=CC=C1C1=NC=NC=C1)=O)(C)C | C28H25FN6O2
solvent | ethanol | C(C)O | C2H6O
product | N-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-4-fluoro-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzamide | CC1(CNC2=CC(=CC=C12)NC(C1=CC(=C(C=C1)F)NC1=NC=CC=C1C1=NC=NC=C1)=O)C | C26H23FN6O
